US06537948B1
A mixture of 5-benzyloxy-4-{1-(methoxycarbonyl)ethoxy}pyrimidine, 10% palladium/carbon and ethyl acetate is stirred for 3 hours at room temperature under hydrogen atmosphere. The reaction system is purged with nitrogen, then, the reaction solution is filtrated through Celite, and the filtrate is concentrated to obtain 5-hydroxy-4-{1-(methoxycarbonyl)ethoxy}pyrimidine.

reactant | 5-benzyloxy-4-{1-(methoxycarbonyl)ethoxy}pyrimidine | C(C1=CC=CC=C1)OC=1C(=NC=NC1)OC(C)C(=O)OC | C15H16N2O4
catalyst | palladium/carbon | [Pd] | Pd
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-hydroxy-4-{1-(methoxycarbonyl)ethoxy}pyrimidine | OC=1C(=NC=NC1)OC(C)C(=O)OC | C8H10N2O4
